US04535183
Ethyl 4-(2-formyl-3-hydroxyphenoxymethyl)benzoate (0.6 g. 0.002 M) was suspended in 95% ethanol (5 ml) and 1 N sodium hydroxide solution (5 ml) and stirred at room temperature (2.5 hr). The yellow solution was diluted with water, extracted with ethyl acetate, and acidified with concentrated hydrochloric acid. The precipitated solid was filtered off, washed well with water, and recrystallised from 95% ethanol to give 4-(2-formyl-3-hydroxyphenoxymethyl) benzoic acid, m.p. 239°-240° C. (Found: C. 65.99; H, 4.29. C15H12O5 requires C, 66.17; H, 4.44%).

reactant | Ethyl 4-(2-formyl-3-hydroxyphenoxymethyl)benzoate | 0.002 M, 0.6 g | C(=O)C1=C(OCC2=CC=C(C(=O)OCC)C=C2)C=CC=C1O | C17H16O5
reactant | sodium hydroxide | 1 N, 5 ml | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-(2-formyl-3-hydroxyphenoxymethyl) benzoic acid | C(=O)C1=C(OCC2=CC=C(C(=O)O)C=C2)C=CC=C1O | C15H12O5
